US09328110B2
The general method described in Steps 9 and 10 of Example 1 was used to aminate 4-(1H-imidazo[4,5-c]quinolin-1-yl)-1-phenylbutan-1-one (4.08 g, 12.9 mmol) by reaction with m-CPBA (3.20 g, 14.2 mmol) to provide 4-(5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)-1-phenylbutan-1-one followed by reaction with p-toluenesulfonyl chloride (2.71 g, 14.2 mmol) and ammonium hydroxide solution (22 mL) to provide 4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)-1-phenylbutan-1-one) as white needles, mp 209-211° C.

reactant | 4-(1H-imidazo[4,5-c]quinolin-1-yl)-1-phenylbutan-1-one | 12.9 mmol, 4.08 g | N1(C=NC=2C=NC=3C=CC=CC3C21)CCCC(=O)C2=CC=CC=C2 | C20H17N3O
reactant | m-CPBA | 14.2 mmol, 3.20 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
product | 4-(5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)-1-phenylbutan-1-one | [O-][N+]1=CC2=C(C=3C=CC=CC13)N(C=N2)CCCC(=O)C2=CC=CC=C2 | C20H17N3O2
